US06498185B1
To a mixture of sodium 3-chloro-4-(morpholin-4-yl)methyl-2-thiophene carboxylate (1.0 g, 3.9 mmol) and N-(4-chlorophenyl)-2-amino-5-chlorobenzamide (0.88 g, 3.1 mmol) in pyridine (20 mL) at −10° C. was added POCl3 (0.40 mL, 4.3 mmol). After 45 minutes, the mixture was poured onto ice-water and the resulting solid collected by filtration. Crystallization from 1-butanol afforded 0.26 g (13% yield) of N-(4-chlorophenyl)-2-[((4-(morpholin-4-yl)methyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, as a tan solid; NMR (DMSO-d6) 11.1 (s, 1), 10.8 (s, 1), 8.3 (d, 1), 7.9 (s, 1), 7.8 (s, 1), 7.7 (d, 2), 7.6 (d, 2), 7.4 (d, 3), 3.6 (s, 2), 3.3 (br, 4), 2.4 (br, 4) ppm.

reactant | sodium 3-chloro-4-(morpholin-4-yl)methyl-2-thiophene carboxylate | 3.9 mmol, 1.0 g | ClC1=C(SC=C1CN1CCOCC1)C(=O)[O-].[Na+]
reactant | N-(4-chlorophenyl)-2-amino-5-chlorobenzamide | 3.1 mmol, 0.88 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)N)=O | C13H10Cl2N2O
reactant | POCl3 | 4.3 mmol, 0.40 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-chlorophenyl)-2-[((4-(morpholin-4-yl)methyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.26 g, 13% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CN1CCOCC1)=O | C23H20Cl3N3O3S
